US06376487B1
3-Methyl-4-nitroiminoperhydro 1,3,5-oxadiazine
30.5 g of paraformaldehyde are added, at room temperature, to a mixture of 20 g of N-methyl-N′-nitroguanidine, 17 g of triethylamine, 100 ml of dioxane and 100 ml of toluene, and the mixture is refluxed for 16 hours and subsequently evaporated in vacuo. The residue is purified by column chromatography [silica gel; dichloromethane/methanol (95:5)], giving the tide compound which melts at 137 to 139°.

reactant | paraformaldehyde | 30.5 g | C=O | CH2O
reactant | N-methyl-N′-nitroguanidine | 20 g | CNC(=N)N[N+](=O)[O-] | C2H6N4O2
reactant | triethylamine | 17 g | C(C)N(CC)CC | C6H15N
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-4-nitroiminoperhydro 1,3,5-oxadiazine | CN1COCNC1=N[N+](=O)[O-] | C4H8N4O3
